data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
805,872,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[N+:16]#[C:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)=[N:16][C:13]3([C:11]([NH:10][CH3:9])=[O:12])[C:14]#[N:15],water,298.15,13.910036051049468,-52.98246555351506
1442,1584,[CH3:12][N+:13](=[N:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[N-:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[N:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:13]([CH3:12])[N:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,38.37624314540325,1.0272191446703909
3796,4346,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[N-:15][N+:16]#[C:17][C:18]([CH3:19])=[O:20]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[N:15]([C:13]([NH:12][CH3:11])=[O:14])[N:16]=[C:17]2[C:18]([CH3:19])=[O:20],water,298.15,23.73145013271409,-24.325253829011555
3684,4205,[CH3:9][C:10](=[O:11])[C:12]#[N+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:13]=[C:12]1[C:10]([CH3:9])=[O:11],water,298.15,15.034618098950732,-44.10357564127677
3793,4343,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[N:5]#[C:6][N-:7][NH+:8]=[C:9]([c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:7]([C:6]#[N:5])[NH:8][C:9]1([c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,30.05366212784957,-6.522086495555097
5259,5964,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[N+:26]([CH3:27])[C-:28]([C:29]#[N:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:28]([C:29]#[N:30])([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[N:26]([CH3:27])[C:19]2([C:17]([NH:16][CH3:15])=[O:18])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,31.678185792953485,-2.3870015940377423
572,626,[CH3:1][O:2]/[CH:3]=[CH:4]/[O:5][CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([C:12](=[O:13])[O:14][CH3:15])[N+:16]([CH3:17])=[C:18]([CH3:19])[C:20]#[N:21]>>[CH3:1][O:2][C@H:3]1[C@H:4]([O:5][CH3:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12](=[O:13])[O:14][CH3:15])[N:16]([CH3:17])[C:18]1([CH3:19])[C:20]#[N:21],water,298.15,28.75394161277343,-29.79082894635209
4912,5596,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[C-:11]([O+:12]=[C:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]([C:9]([O:8][CH3:7])=[O:10])([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[O:12][C:13]1([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,12.706113717218086,-33.82614471637797
5231,5935,[CH3:10][O:11][C:12](=[O:13])[C-:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[N+:21]([CH3:22])=[C:23]([C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:21]([CH3:22])[C:23]1([C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,43.95279585292205,-3.704704746365427
2030,2253,[CH3:18][NH:19][C:20](=[O:21])[c:22]1[o:23][c:24](=[O:25])[c-:26]([C:27]#[N:28])[o+:29]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][CH:12]([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([CH:12]([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]1([C:20]([NH:19][CH3:18])=[O:21])[O:23][C:24](=[O:25])[C:26]2([C:27]#[N:28])[O:29]1,water,298.15,16.402798465097067,-29.27568678016181
3600,4109,[CH3:9][C:10]#[N+:11][C-:12]([C:13]#[N:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:13]#[N:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:11]=[C:10]1[CH3:9],water,298.15,12.21253277710999,-35.996758288081544
